US06307055B1
2-(2′-hydroxy-5′-bromomethyphenyl)-5-tert-octyloxybenzotriazole was prepared from the bromination of 2-(2′-hydroxy-5′-methyphenyl)-5-tert-octyloxybenzotriazole using azobis isobutyronitrile (AIBN) as an initiator. In a 500 ml three-necked round bottomed flask, 8.236 g (0.0223 mol) 2-(2′-hydroxy-5′-methyphenyl)-5-tert-octyloxybenzotriazole and 100 mg of AIBN were taken and dissolved in 150 ml of dry carbon tetrachloride. In a separate conical flask 4.18 g (1.5 ml, 0.03 mol) of bromine was dissolved in 75 ml of dry carbon tetrachloride and solution was transferred to a cylindrical funnel with pressure equalizing tube. Three-necked round-bottomed flask containing solution of 2 (2′hydroxy 5′methyphenyl)-5-tert-octyloxybenzotriazole was kept in oil-bath with temperature 50° C. Nitrogen was bubbled through the solution for creating inert atmosphere. Cylindrical funnel containing bromine solution was mounted on the three-necked round-bottomed flask. Solution in the flask was continuously stirred with the help of magnetic stirrer. Bromine solution was added, drop-by-drop, from funnel to the flask for a span of 4-5 hours till all the solution was poured out. After that heating was stopped and the final reaction mixture was allowed to cool at room temperature. Product was separated by solvent evaporation. Finally the product was purified by recrystallization from acetone. The yield of 2-(2′-hydroxy-5′-bromomethyphenyl)-5-tert-octyloxybenzotriazole was 7.8 g (81%).

reactant | 2-(2′-hydroxy-5′-methyphenyl)-5-tert-octyloxybenzotriazole | OC1=C(C=C(C=C1)C)N1N=C2C(=N1)C=CC(=C2)OC(C)(C)CC(C)(C)C | C21H27N3O2
reactant | azobis isobutyronitrile | N(=NC(C#N)(C)C)C(C#N)(C)C | C8H12N4
reactant | 2-(2′-hydroxy-5′-methyphenyl)-5-tert-octyloxybenzotriazole | 0.0223 mol, 8.236 g | OC1=C(C=C(C=C1)C)N1N=C2C(=N1)C=CC(=C2)OC(C)(C)CC(C)(C)C | C21H27N3O2
reactant | AIBN | 100 mg | N(=NC(C#N)(C)C)C(C#N)(C)C | C8H12N4
reactant | bromine | 0.03 mol, 1.5 ml, 4.18 g | BrBr | Br2
reactant | (2′hydroxy 5′methyphenyl)-5-tert-octyloxybenzotriazole | OC1=C(C=C(C=C1)C)C1=C(C=CC=2NN=NC21)OC(C)(C)CC(C)(C)C | C21H27N3O2
solvent | carbon tetrachloride | 150 ml | C(Cl)(Cl)(Cl)Cl | CCl4
solvent | carbon tetrachloride | 75 ml | C(Cl)(Cl)(Cl)Cl | CCl4
product | 2-(2′-hydroxy-5′-bromomethyphenyl)-5-tert-octyloxybenzotriazole | OC1=C(C=C(C=C1)CBr)N1N=C2C(=N1)C=CC(=C2)OC(C)(C)CC(C)(C)C | C21H26BrN3O2
